US07728131B2
4-(1-methylpiperidin-4-ylmethyl)-3-trifluoromethylbenzoic acid
This compound was prepared in the same manner as in Reference Example 1 (step 6), except that ethyl 4-(1-methylpiperidin-4-ylmethyl)-3-trifluoromethylbenzoate obtained in the step 1 was used, and that the crude product was mixed with methanol and stirred, insolubles were removed by filtration, the filtrate was distilled off under reduced pressure, and then the residue was crystallized by adding acetonitrile.

reactant | ethyl 4-(1-methylpiperidin-4-ylmethyl)-3-trifluoromethylbenzoate | CN1CCC(CC1)CC1=C(C=C(C(=O)OCC)C=C1)C(F)(F)F | C17H22F3NO2
solvent | methanol | CO | CH4O
product | 4-(1-methylpiperidin-4-ylmethyl)-3-trifluoromethylbenzoic acid | CN1CCC(CC1)CC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C15H18F3NO2
